US05021435
A 50% aqueous dimethylamine solution (1.0 ml, 11 mmol) was added to a solution of trans-isomer (128 mg, 0.35 mmol) of 3-(2-chloroethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one in dimethylsulfoxide (3 ml). The mixture, placed in a sealed tube, was heated at 100° C. for hours. After removal of the solvent by evaporation under reduced pressure, the residue was dissolved in chloroform (30 ml). The solution was washed twice with saturated aqueous NaHCO3 and dried. Removal of the chloroform gave the intended trans-isomer (131 mg, quantitative yield) of 3-(2-dimethylaminoethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one as an oily form.

reactant | dimethylamine | 11 mmol, 1.0 ml | CNC | C2H7N
reactant | 3-(2-chloroethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one | 0.35 mmol, 128 mg | ClCCN1C(SC(C1=O)CCCCCCCCC)C=1C=NC=CC1 | C19H29ClN2OS
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 3-(2-dimethylaminoethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one | 131 mg, quantitative yield | CN(CCN1C(SC(C1=O)CCCCCCCCC)C=1C=NC=CC1)C | C21H35N3OS
